spice
* SPICE Netlist for the given schematic

* Voltage Source
VDD 3 0 DC 5V

* PMOS Transistors
M1 1 1 3 3 PMOS
M2 2 1 1 1 PMOS
M3 5 2 2 2 PMOS

* NMOS Transistors
M4 1 1 5 5 NMOS
M5 2 2 5 5 NMOS

* Current Source
I1 5 0 DC 1mA

* Resistors
R1 8 2 10k
R2 9 2 10k

* Output Nodes
Vout1 8 0 
Vout2 9 0 

.END